US09227901B2
N-((1R,2S)-1-benzyl-7-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide
Chlorocyclooctadiene rhodium(I) dimer (0.217 g, 0.881 mmol of Rh), Josiphos SL-J216-2 (0.595 g, 0.926 mmol), and N-(1-benzyl-7-bromo-3,4-dihydronaphthalen-2-yl)propionamide (10.88 g, 29.4 mmol) were combined in a metal reactor, and the vessel was inerted with argon. Degassed ethanol (163 ml) was added, and the mixture was agitated under argon for 30 min at 50° C. The vessel was pressurized with 60 psig of hydrogen and agitated at 55° C. for 14.5 hrs. HPLC analysis indicated 89.4% conversion and 93.8% ee. The mixture was concentrated, and the resulting solid was crystallized from MeOH to yield 7.41 g (yield: 68%) of the title compound.

reactant | Josiphos SL-J216-2 | 0.926 mmol, 0.595 g | C[C@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC3=CC=CC=C32)C4=CC=CC5=CC=CC=C54)PC | C28H25P2
reactant | N-(1-benzyl-7-bromo-3,4-dihydronaphthalen-2-yl)propionamide | 29.4 mmol, 10.88 g | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)Br)NC(CC)=O | C20H20BrNO
reactant | hydrogen | [H][H] | H2
catalyst | Chlorocyclooctadiene rhodium(I) | [Rh+].ClC1=CC=CCCCC1
solvent | ethanol | 163 ml | C(C)O | C2H6O
product | N-((1R,2S)-1-benzyl-7-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide | 7.41 g, yield: 68% | C(C1=CC=CC=C1)[C@H]1[C@H](CCC2=CC=C(C=C12)Br)NC(CC)=O | C20H22BrNO
